US08372970B2
Step 3: Synthesis of 6-(4-aminophenyl)-thiomorpholine (4)
To the solution of 6-(4-aminophenyl)-thiomorpholin-3-one (0.26 g, 1.25 mmol) in anhydrous tetrahydrofuran (6.7 mL) was added lithium aluminium hydride (0.16 g, 4.27 mmol) in several portions and the mixture was stirred at 60° C. for 2 h. Na2SO4×10H2O (2.00 g) was added in small portions until the complex was decomposed. The suspension was filtered, the solids were washed with tetrahydrofuran (2×3 mL) and the combined filtrates were evaporated. The title compound was obtained as a viscous oil (0.25 g, 1.26 mmol, 100%). ESMS m/z 195 (M+H)+.

reactant | 6-(4-aminophenyl)-thiomorpholin-3-one | 1.25 mmol, 0.26 g | NC1=CC=C(C=C1)C1SCC(NC1)=O | C10H12N2OS
reactant | lithium aluminium hydride | 4.27 mmol, 0.16 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 6.7 mL | O1CCCC1 | C4H8O
product | 6-(4-aminophenyl)-thiomorpholine | NC1=CC=C(C=C1)C1SCCNC1 | C10H14N2S
